US08912188B2
Iron (34.89 g, 623.04 mmol, 5.00 equiv) was added portionwise to a stirred solution of methyl 4-(2-methoxy-2-oxo-1-phenylethylamino)-3-nitrobenzoate (42.87 g, 124.62 mmol, 1.00 equiv) and aqueous NH4Cl (32.1 g, 600.00 mmol, 5.00 equiv, 80 mL) in methanol (300 mL). The resulting solution was heated under reflux for 5 h. Upon cooling, the solids were filtered out. The resulting filtrate was concentrated under vacuum, affording 19.81 g (56%) of methyl 3-oxo-2-phenyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate as a yellow solid. LC-MS (ES, m/z): 283 [M+H]+.

reactant | methyl 4-(2-methoxy-2-oxo-1-phenylethylamino)-3-nitrobenzoate | 124.62 mmol, 42.87 g, 1.00 equiv | COC(C(C1=CC=CC=C1)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])=O | C17H16N2O6
reactant | NH4Cl | 600.00 mmol, 80 mL, 32.1 g, 5.00 equiv | [NH4+].[Cl-]
solvent | methanol | 300 mL | CO | CH4O
catalyst | Iron | 623.04 mmol, 34.89 g, 5.00 equiv | [Fe] | Fe
product | methyl 3-oxo-2-phenyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 19.81 g, 56% | O=C1C(NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H14N2O3
